US07910602B2
2-(3-Formyl-1-methyl-1H-indol-5-yloxy)-acetamide (I-6)
5-Hydroxy-1-methyl-1H-indole-3-carbaldehyde (I-2) (0.5 g, 2.86 mmol), 2-Bromo-acetamide (0.43 g, 3.1 mmol), and N′″-tert-butyl-N,N,N′,N′,N″,N″-hexamethyl-phosphorimidic triamide (2.18 mL, 8.6 mmol) were dissolved into anh. DMF (3 mL) in a seal tube. The resulting solution was then sealed and heated at 120° C. (monitored by LCMS). The reaction completed after 3.5 h. The mixture was cooled to room temperature, added 20 mL of water, and 6 N HCl to pH 2-3. The mixture was then extracted with ethyl acetate (20 mL×6). The organic layers were combined, washed with brine (10 mL×2), dried over Mg2SO4, filtered and dried under reduced pressure to give the title compound as 0.5 g orange powder (crude yield: 76%, used without further purification). LCMS (2-85% ACN/H2O in 7 min): M+ 233.1 (100%); 95% purity (at 220 nM).

reactant | 5-Hydroxy-1-methyl-1H-indole-3-carbaldehyde | 2.86 mmol, 0.5 g | OC=1C=C2C(=CN(C2=CC1)C)C=O | C10H9NO2
reactant | 2-Bromo-acetamide | 3.1 mmol, 0.43 g | BrCC(=O)N | C2H4BrNO
reactant | N′″-tert-butyl-N,N,N′,N′,N″,N″-hexamethyl-phosphorimidic triamide | 8.6 mmol, 2.18 mL | C(C)(C)(C)N=P(N(C)C)(N(C)C)N(C)C | C10H27N4P
reactant | HCl | 6 N | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(3-Formyl-1-methyl-1H-indol-5-yloxy)-acetamide | C(=O)C1=CN(C2=CC=C(C=C12)OCC(=O)N)C | C12H12N2O3
